US08058461B2
4b) 4-(2-Bromoethyl)-1-methoxy-2-methylindane
To a mixture of 12.9 g (62.5 mmol) of 2-(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)ethanol and 16.4 g (62.5 mmol) of PPh3 in 300 ml of THF 11.1 g (62.5 mmol) of N-bromosuccinimide was added at vigorous stirring for 5 minutes at 0° C. This mixture was stirred for 2 hours at room temperature and then evaporated to dryness. A solution of the residue in 200 ml of hexanes was filtered through glass frit (G3), and the precipitate was additionally washed by 3×100 ml of hexanes. The combined organic extract was evaporated to dryness. The product was isolated from the residue using flash chromatography on silica gel 60 (40-63 μm, eluent: hexanes-ether=20:1, vol.). Yield 12.1 g (72%) of ca. 1 to 1 mixture of the diastereomers A and B. Anal. calc. for C13H17BrO: C, 58.01; H, 6.37. Found: C, 58.24; H, 6.22. 1H NMR (CDCl3): δ 7.30 (m, 2H, 6-H in indenyl of A and B), 7.20 (m, 2H, 7-H in indenyl of A and B), 7.12 (m, 2H, 5-H in indenyl of A and B), 4.52 (m, 1H, 1-H in indenyl of A), 4.41 (m, 1H, 1-H in indenyl of B), 3.53 (m, 4H, CH2CH2Br of A and B), 3.47 (s, 3H, OMe of B), 3.42 (s, 3H, OMe of A), 3.22 (dd, J=15.8 Hz, J=7.6 Hz, 1H, 3-H in indenyl of B), 3.15 (m, 4H, CH2CH2Br of A and B), 2.92 (dd, J=14.9 Hz, J=6.7 Hz, 1H, 3-H in indenyl of A), 2.48-2.71 (m, 3H, 2,3-H in indenyl of A and 2-H in indenyl of B), 2.42 (dd, J=15.8 Hz, J=4.8 Hz, 1H, 3-H in indenyl of B), 1.18 (d, J=7.1 Hz, 3H, 2-Me in indenyl of B), 1.13 (d, J=6.6 Hz, 3H, 2-Me in indenyl of A). 13C{1H} NMR (CDCl3): δ 143.1, 142.6, 142.2, 141.7, 135.1, 135.0, 128.5, 128.4, 126.8, 126.5, 124.1, 123.8, 91.3, 85.9, 56.7, 56.5, 39.4, 38.5, 36.80, 36.78, 36.7, 36.5, 31.7, 31.6, 19.4, 13.6.

reactant | 2-(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)ethanol | 62.5 mmol, 12.9 g | COC1C(CC2=C(C=CC=C12)CCO)C | C13H18O2
reactant | PPh3 | 62.5 mmol, 16.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | THF | 62.5 mmol, 300 ml, 11.1 g | C1CCOC1 | C4H8O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 4-(2-Bromoethyl)-1-methoxy-2-methylindane | BrCCC1=C2CC(C(C2=CC=C1)OC)C | C13H17BrO
